US07696231B2
c) Preparation of 3-(3-Hydroxyphenyl)-N-(4-{[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}phenyl)propanamide
Into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added N-[4-(hydrazinocarbonyl)phenyl]-3-(3-hydroxyphenyl)propanamide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 45 mg of the title compound (63%) as a yellow solid in 92.4% purity by HPLC (Rt: 3.88, gradient of 8 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | N-[4-(hydrazinocarbonyl)phenyl]-3-(3-hydroxyphenyl)propanamide | N(N)C(=O)C1=CC=C(C=C1)NC(CCC1=CC(=CC=C1)O)=O | C16H17N3O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(3-Hydroxyphenyl)-N-(4-{[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}phenyl)propanamide | 45 mg, 63% | OC=1C=C(C=CC1)CCC(=O)NC1=CC=C(C=C1)C(=O)NN=C1C(NC2=CC=C(C=C12)I)=O | C24H19IN4O4
